US07468375B2
1-(4-Fluorobenzyl)-4-hydroxy-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
To methyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.6 g, 2 mmol) in methanol (10 ml) and water (1 ml) were added sodium hydroxide (0.56 g, 14 mmol) and O-methylhydroxylamine (0.668 g, 8 mmol). The resulting mixture was stirred for 28 hours at 63° C. Acetic acid (2 mL) was added to precipitate undesired byproduct, 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid, which was removed by filtration. The filtrate was concentrated in under reduced pressure; the residue was dissolved in methanol and purified by preparative HPLC to provide the title compound as a white powder (0.035 g, 5.6% yield). 1H NMR (300 MHz, DMSO-d6) d ppm 3.76 (s, 3H) 5.60 (s, 2H) 6.75 (d, J=2.83 Hz, 1H) 7.17-7.24 (m, 2H) 7.32-7.39 (m, J=5.46 Hz, 2H) 7.76 (d, J=3.20 Hz, 1H) 8.47 (s, 1H) 12.08 (s, 1H) 12.89 (s, 1H). LC-MS (APCI, M+H+): 316.1. HPLC: 95% purity.

reactant | methyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 2 mmol, 0.6 g | FC1=CC=C(CN2C=CC=3C2=CN=C(C3O)C(=O)OC)C=C1 | C16H13FN2O3
reactant | sodium hydroxide | 14 mmol, 0.56 g | [OH-].[Na+]
reactant | O-methylhydroxylamine | 8 mmol, 0.668 g | CON | CH5NO
reactant | Acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 1-(4-Fluorobenzyl)-4-hydroxy-N-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.035 g, 5.6% yield | FC1=CC=C(CN2C=CC=3C2=CN=C(C3O)C(=O)NOC)C=C1 | C16H14FN3O3
